US03954733
A mixture of 1 g of 4-hydroxy-7-methyl-1,8-naphthyridine-3-carboxylic acid and 25 ml of anhydrous pyridine was heated on an oil bath at 50 to 60°C while stirring. Then, 1.38 g of p-nitrophenyl trifluoroacetate were added thereto and, after the heating was interrupted, stirring was carried out for 2 hours. The precipitated crystals were collected by filtration and washed with ethanol to give 4-hydroxy--methyl--methyl-1,8-naphthyridine-3-carboxylic acid p-nitrophenyl ester as pale yellow crystalline powder melting at 311 to 313°C (decomp.). Yield, 1.2 g. IR νC=0 1700 cm-1 ; νNO2 1520 cm-1, 1345 cm-1.

reactant | 4-hydroxy-7-methyl-1,8-naphthyridine-3-carboxylic acid | 1 g | OC1=C(C=NC2=NC(=CC=C12)C)C(=O)O | C10H8N2O3
reactant | p-nitrophenyl trifluoroacetate | 1.38 g | FC(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C8H4F3NO4
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy--methyl--methyl-1,8-naphthyridine-3-carboxylic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C(=NC2=NC=CC(=C2C1O)C)C | C17H13N3O5
